US07141569B2
Treatment of N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-5-amine (500 mg, 1.07 mmol) in dichloromethane with boron tribromide, followed by aqueous workup, gave 4-{5-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-2-yl}phenol (390 mg, 81%) as a yellow solid. 1H NMR (CD3OD) δ 8.16 (d, 1H), 7.85 (d, 1H), 7.40 (m, 3H), 6.90 (d, 2H), 6.53 (dd, 1H), 6.27 (d, 1H), 4.44 (m, 1H), 3.92 (m, 1H), 2.11 (m, 4H), 1.84–1.58 (m, 12H). MS m/z 455 (M+1).

reactant | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-5-amine | 1.07 mmol, 500 mg | C1(CCCC1)NC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C28H32N6O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-{5-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-α]pyridin-2-yl}phenol | 390 mg, 81% | C1(CCCC1)NC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)O | C27H30N6O
